US05280022
4-(2-Pyridyloxy)butylaminomethylenebisphosphonic acid hydrochloride (1.1 g) was dissolved in water (25 ml), to which was added an aqueous solution of sodium hydroxide (1N, 3 ml). To the mixture was added methanol to cause precipitation of a solid matter, which was collected by filtration and recrystallized from water-methanol to afford 4-(2-pyridyloxy)butylaminomethylenebisphosphonic acid trihydrate (0.6 g, 51%) as colorless crystals, m.p. 186° C. to 187° C.

reactant | 4-(2-Pyridyloxy)butylaminomethylenebisphosphonic acid hydrochloride | 1.1 g | Cl.N1=C(C=CC=C1)OCCCCNC(P(O)(O)=O)P(O)(O)=O
reactant | sodium hydroxide | 1N, 3 ml | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | 25 ml | O | H2O
product | 4-(2-pyridyloxy)butylaminomethylenebisphosphonic acid trihydrate | 0.6 g, 51% | O.O.O.N1=C(C=CC=C1)OCCCCNC(P(O)(O)=O)P(O)(O)=O | InChI=1S/C10H18N2O7P2.3H2O/c13-20(14,15)10(21(16,17)18)12-7-3-4-8-19-9-5-1-2-6-11-9;;;/h1-2,5-6,10,12H,3-4,7-8H2,(H2,13,14,15)(H2,16,17,18);3*1H2
